US04200743
5.4 parts of sodium cyanide in 40 parts of water are added dropwise to 17.6 parts of bromine in 150 parts of water at from 5° to 10° C. A solution of 24 parts of 3-isopropyl-2,1,3-benzothiadiazin-4-one-2,2-dioxide and 4 parts of sodium hydroxide in 100 parts of water is then added and the mixture is stirred for 2 hours at 50° C. When it has cooled, the precipitate is filtered off and dried. 25 parts of 1-cyano-3-isopropyl-2,1,3-benzothiadiazin-4-one-2,2-dioxide of melting point 99°-101° C. are obtained.

reactant | sodium cyanide | [C-]#N.[Na+]
reactant | bromine | BrBr | Br2
reactant | 3-isopropyl-2,1,3-benzothiadiazin-4-one-2,2-dioxide | C(C)(C)N1S(NC2=C(C1=O)C=CC=C2)(=O)=O | C10H12N2O3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 1-cyano-3-isopropyl-2,1,3-benzothiadiazin-4-one-2,2-dioxide | C(#N)N1S(N(C(C2=C1C=CC=C2)=O)C(C)C)(=O)=O | C11H11N3O3S
